US07915415B2
Step 1: Synthesis of 2-(1,3,2-dioxaborinan-2-yl)benzonitrile
49.0 g (334 mmol) 2-cyanobenzeneboronic acid and 25.9 g (340 mmol) 1,3-propanediol were dissolved in 1 L CH2Cl2 with stirring in a 2 L round bottom flask for 20 h. The solution was then poured over a filter with suction to remove gummy solids. The filtrate was then dried with anhydrous MgSO4 to remove residual water, filtered and evaporated of solvent to give light-colored oil. The oil was then dissolved in CH2Cl2 and purified on a silica gel plug using CH2Cl2 as eluent. The product fractions were evaporated down to give the product as clear oil (35.7 g, 57.2% yield).

reactant | 2-cyanobenzeneboronic acid | 334 mmol, 49.0 g | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | 1,3-propanediol | 340 mmol, 25.9 g | C(CCO)O | C3H8O2
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
product | 2-(1,3,2-dioxaborinan-2-yl)benzonitrile | 35.7 g, 57.2% yield | O1B(OCCC1)C1=C(C#N)C=CC=C1 | C10H10BNO2
